US05861401
5-Dimethylamino-1-naphthalenesulphonyl chloride (15.2 g) and 2-amino-5-bromo-3-methoxypyrazine (obtained as described in Gazz. Chim. Ital. 1960, 90, 1807) (9.5 g) were mixed intimately in a mortar and pestle and added to pyridine (150 ml) at 0° C. The solution was kept at 0° C. for 1 hour and then heated at 80° C. for 18 hours. Volatile material was removed by evaporation and dichloromethane (250 ml) was added to the residue. Insoluble material was removed by filtration and the filtrate was washed with water (100 ml) and saturated sodium chloride solution (100 ml). The solution was treated with charcoal and dried (MgSO4). The solvent was removed by evaporation and the residue was purified by flash chromatography, eluting with ethyl acetate/hexane (1:4 v/v). The resulting solid was triturated with ether and recrystallised from ethanol to give 5-dimethylamino-N-(5-bromo-3-methoxy-2-pyrazinyl)-1-naphthalenesulphonamide (4.7 g), m.p. 166°-167° C.; 1H NMR (d6 -DMSO): 2.8 (s,6H), 3.9 (s,3H), 7.2 (d,1H), 7.55-7.7 (d,2H), 7.8 (s,1H), 8.3 (d,1H), 8.4-8.5 (m,2H), 11.5 (s,1H); mass spectrum (+ve CI): 437 (M+H)+.

reactant | 5-Dimethylamino-1-naphthalenesulphonyl chloride | 15.2 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | 2-amino-5-bromo-3-methoxypyrazine | 9.5 g | NC1=NC=C(N=C1OC)Br | C5H6BrN3O
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 5-dimethylamino-N-(5-bromo-3-methoxy-2-pyrazinyl)-1-naphthalenesulphonamide | 4.7 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=NC=C(N=C1OC)Br)C | C17H17BrN4O3S
